US06610694B1
Production of N-[6-[3-[4-(Diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl]-2,2-dimethylglycine ethyl ester difumarate
1.04 g of 4-(diphenylmethoxy)-1-piperidinepropanol was dissolved in 14 ml of N,N-dimethylformamide; 141 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature under reduced pressure for 50 minutes. Under ice cooling, 1.00 g of N-(6-chloro[1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl)-2,2-dimethylglycine ethyl ester was added, followed by stirring at ice temperature for 1 hour, then at room temperature for 2 hours. After saline was added, the reaction mixture was extracted with ethyl acetate-tetrahydrofuran (1:1) and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (50:5:1). The desired fraction was collected and concentrated under reduced pressure; 1.62 g of the residue was dissolved in 2 ml of pyridine; 1 ml of acetic anhydride was added, followed by stirring at room temperature for 15 hours. After saline was added, the reaction mixture was extracted with ethyl acetate, washed with saturated saline, and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (50:5:1). The desired fraction was collected and concentrated under reduced pressure; 1.32 g of the residue was dissolved in ethanol; a solution of 511 mg of fumaric acid in ethanol was added, followed by concentration under reduced pressure. The residue was powdered from diethyl ether and dried to yield 1.53 g of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanol | 1.04 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | sodium hydride | 141 mg | [H-].[Na+]
reactant | N-(6-chloro[1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl)-2,2-dimethylglycine ethyl ester | 1.00 g | C(C)OC(C(NC(=O)C1=NN=C2N1N=C(C=C2)Cl)(C)C)=O | C12H14ClN5O3
reactant | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | N-[6-[3-[4-(Diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl]-2,2-dimethylglycine ethyl ester difumarate | 1.53 g | C(\C=C\C(=O)O)(=O)O.C(\C=C\C(=O)O)(=O)O.C(C)OC(C(NC(=O)C1=NN=C2N1N=C(C=C2)OCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2)(C)C)=O | InChI=1S/C33H40N6O5.2C4H4O4/c1-4-42-32(41)33(2,3)34-31(40)30-36-35-27-16-17-28(37-39(27)30)43-23-11-20-38-21-18-26(19-22-38)44-29(24-12-7-5-8-13-24)25-14-9-6-10-15-25;2*5-3(6)1-2-4(7)8/h5-10,12-17,26,29H,4,11,18-23H2,1-3H3,(H,34,40);2*1-2H,(H,5,6)(H,7,8)/b;2*2-1+
